US07256218B2
Preparation of 2-chloro-4-trifluoromethoxyphenol, a compound of the formula VI
A solution of 4-trifluoromethoxyphenol (20 g, 0.11 mole) and sulfuryl chloride (18.20 mL, 0.22 mole) was stirred at room temperature for five hours. The excess of sulfuryl chloride was evaporated by rotary evaporator. The residue was dissolved in 50 mL of dichloromethane and washed with 50 mL of H2O. The organic layer was separated, dried over MgSO4, filtered and concentrated to yield 22 g of the product. The crude product was purified over a silica gel column using 10% ethyl acetate in hexane to yield 16.4 g of the product. 1H-NMR (DMSO, 500-MHz), δ 10.59 (s, 1H), 7.43 (d, J=2.75 Hz, 1H), 7.18 (dd, J1=2.75 Hz, J2=7.16 Hz, 1H), 7.03 (d, J=7.16 Hz, 1H). MS (electro-spray) [M−H] 211.4.

reactant | 4-trifluoromethoxyphenol | 0.11 mole, 20 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | sulfuryl chloride | 0.22 mole, 18.20 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 2-chloro-4-trifluoromethoxyphenol | 22 g | ClC1=C(C=CC(=C1)OC(F)(F)F)O | C7H4ClF3O2
